US09056874B2
A mixture of (±)-2-(1-hydroxy-1-(5-isopropyl-7-methyl-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile and (±)-2-(1-hydroxy-1-(7-methyl-5-propyl-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile (110 mg, 0.215 mmol), isoamylamine (94 mg, 1.073 mmol), and KOH (60.2 mg, 1.073 mmol) was stirred at 100° C. for 0.75 h under the microwave irradiation. The reaction mixture was diluted with CH2Cl2. The mixture was filtered through SiO2. The SiO2 cake was washed with a mixture of CH2Cl2/MeOH (c.a. 6/1). Combined organic solution was concentrated and purified by silica gel flash column chromatography (CH2Cl2/EtOAc=82/18, isocratic) to give (±)-2-(1-hydroxy-1-(5-isopropyl-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile as a pure isomeric form. 1H NMR (400 MHz, ACETONITRILE-d3 with about 5 μL TFA) δ ppm 9.28 (br. s., 1H), 8.05 (s, 1H), 7.73 (d, J=8.60 Hz, 1H), 7.69 (dd, J=1.30, 8.60 Hz, 1H), 7.19 (dd, J=2.80, 2.90 Hz, 1H), 7.00 (s, 1H), 6.66 (dd, J=2.30, 3.00 Hz, 1H), 2.90-3.06 (m, 1H), 2.47 (s, 3H), 2.28 (s, 3H), 0.95 (d, J=6.82 Hz, 3H), 0.92 (d, J=6.57 Hz, 3H). HRMS calcd. for C22H22N4O (M+H)+ 359.1867. found 359.1865.

reactant | (±)-2-(1-hydroxy-1-(5-isopropyl-7-methyl-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | OC(C)(C1=C2C=CN(C2=C(C=C1C(C)C)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=NC2=C(N1)C=CC(=C2)C#N | C29H28N4O3S
reactant | (±)-2-(1-hydroxy-1-(7-methyl-5-propyl-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.215 mmol, 110 mg | OC(C)(C1=C2C=CN(C2=C(C=C1CCC)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=NC2=C(N1)C=CC(=C2)C#N | C29H28N4O3S
reactant | isoamylamine | 1.073 mmol, 94 mg | C(CC(C)C)N | C5H13N
reactant | KOH | 1.073 mmol, 60.2 mg | [OH-].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (±)-2-(1-hydroxy-1-(5-isopropyl-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | OC(C)(C1=C2C=CNC2=C(C=C1C(C)C)C)C1=NC2=C(N1)C=CC(=C2)C#N | C22H22N4O
